US05430169
A suspension of methionine methyl ester hydrochloride (3.8 g, 19 mmol) and freshly distilled benzaldehyde (2 g, 19 mmol) in dichloromethane (60 mL) was cooled to 0° C. and magnetically stirred. A solution of triethylamine (1.92 g, 19 mmol) in solution in dichloromethane (30 mL) was added slowly thereto. The resulting solution was allowed to stand overnight at room temperature, with stirring. After removal of the solvent, the residue was taken up in anhydrous diethyl ether, with the insoluble material being filtered off. The filtrate was washed with water (3×30 mL), brine (2×40 mL), dried over sodium sulfate, and concentrated, to provide a crude material which was purified by distillation (bp 144° C., 4 mm) providing methyl-2-(benzylideneamino)-4-(methylthio)butyrate (3.62 g) at a yield of 76%.

reactant | methionine methyl ester hydrochloride | 19 mmol, 3.8 g | Cl.COC([C@@H](N)CCSC)=O
reactant | benzaldehyde | 19 mmol, 2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 19 mmol, 1.92 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl-2-(benzylideneamino)-4-(methylthio)butyrate | 3.62 g, yield of 76% | COC(C(CCSC)N=CC1=CC=CC=C1)=O | C13H17NO2S
